US07470679B2
(S)-7-(2-hydroxyethyl)-9-neopentyl-6,7,9,10-tetrahydroazepino[3,4-e]indazol-8(3H)-one
(S)-2-(9-neopentyl-8-oxo-3,6,7,8,9,10-hexahydroazepino[3,4-e]indazol-7-yl)ethyl acetate (18 mg, 0.05 mmol) was dissolved in methanol (1 mL). Potassium carbonate (20 mg, 0.14 mmol) was added to the mixture. Reaction stirred at room temperature for 1 hour. Amberlite IRC-50 ion exchange resin was added to the mixture. Reaction stirred at room temperature for 15 minutes. Mixture was filtered. Filtrate was concentrated in vacuo. The title compound was obtained as yellow residue in 94% yield. MS m/e (M+H)+=316.

reactant | (S)-2-(9-neopentyl-8-oxo-3,6,7,8,9,10-hexahydroazepino[3,4-e]indazol-7-yl)ethyl acetate | 0.05 mmol, 18 mg | C(C)(=O)OCC[C@@H]1CC2=C(C=3C=NNC3C=C2)CN(C1=O)CC(C)(C)C | C20H27N3O3
reactant | Potassium carbonate | 0.14 mmol, 20 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 1 mL | CO | CH4O
product | (S)-7-(2-hydroxyethyl)-9-neopentyl-6,7,9,10-tetrahydroazepino[3,4-e]indazol-8(3H)-one | 94% yield | OCC[C@@H]1CC2=C(C=3C=NNC3C=C2)CN(C1=O)CC(C)(C)C | C18H25N3O2
